US06518265B1
(N-Triphenylmethyl-4-piperidyl)methyl methanesulfonate
To a solution of 84.0 g of N-triphenylmethyl-4-piperidinemethanol and 36.2 ml of triethylamine in 420 ml of dried tetrahydrofuran, 18.3 ml of methanesulfonyl chloride was added dropwise under ice-cooling, and the mixture was stirred at room temperature for 5.5 hours. The reaction mixture was added with waiter and extracted with diethyl ether. The extract was washed successively with water and saturated brine, and dried, and then the solvent was evaporated. The resulting residue was added with a mixture of isopropanol and methanol, and the precipitated crystals were collected by filtration and washed with methanol to give 90.4 g of colorless crystals. Recrystallization from a mixture of methylene chloride and methanol gave colorless prisms having the melting point of from 129.5 to 134° C.

reactant | N-triphenylmethyl-4-piperidinemethanol | 84.0 g | C1(=CC=CC=C1)C(N1CCC(CC1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO
reactant | triethylamine | 36.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 18.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
product | (N-Triphenylmethyl-4-piperidyl)methyl methanesulfonate | 90.4 g | CS(=O)(=O)OCC1CCN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H29NO3S
